US04105652
Boc-Val-Thr(Bzl)-OBzl (IX)
H-Thr(Bzl)-OBzl hemioxalate (58 g, 168.4 mmol) was suspended in DMF (700 ml) and stirred with Boc-Val-OSu (48 g, 153.1 mmol) and Et3N (16 ml) at 0° C for 1 hr, 4° C for 72 hrs and 25° C for 24 hrs. It was necessary during this time to add at intervals additional Et3N in order to maintain the pH between 7 and 8. The reaction mixture was worked up as in Example 2 to yield an oil which crystallized from EtOAc with petroleum ether, yield 40.8 g (53.5%); mp 99°-100.5° C; [α]D25 -26.0° (c 1, MeOH). Anal. Calcd for C28H38N2O6 (498.62): C, 67.45; H, 7.68; N, 5.62. Found: C, 67.57; H, 7.55; N, 5.70.

reactant | H-Thr(Bzl)-OBzl | N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)OCC1=CC=CC=C1 | C18H21NO3
reactant | Boc-Val-OSu | 153.1 mmol, 48 g | N([C@@H](C(C)C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C14H22N2O6
reactant | Et3N | 16 ml | CCN(CC)CC | C6H15N
solvent | DMF | 700 ml | CN(C)C=O | C3H7NO
product | Boc-Val-Thr(Bzl)-OBzl | N([C@@H](C(C)C)C(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C28H38N2O6
